US06589984B1
K2CO3 (3.0 g) and water (10 ml) were added to a solution of 4-acetyloxy-6-(benzyloxy)methyl-3,5-dimethyl-2H-pyran-2-one (6.08 g) in MeOH (100 ml), and after stirring at room temperature overnight, the reaction solution was celite filtered and the mother liquor was concentrated under reduced pressure. Water was added to the residue, extraction was performed with AcOEt, and the organic layer was dried with Na2SO4 and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=5/1→1/1) to obtain 6-(benzyloxy)methyl-3,5-dimethyl-4-hydroxy-2H-pyran-2-one.

reactant | K2CO3 | 3.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 ml | O | H2O
reactant | 4-acetyloxy-6-(benzyloxy)methyl-3,5-dimethyl-2H-pyran-2-one | 6.08 g | C(C)(=O)OC1=C(C(OC(=C1C)COCC1=CC=CC=C1)=O)C | C17H18O5
solvent | MeOH | 100 ml | CO | CH4O
product | 6-(benzyloxy)methyl-3,5-dimethyl-4-hydroxy-2H-pyran-2-one | C(C1=CC=CC=C1)OCC1=C(C(=C(C(O1)=O)C)O)C | C15H16O4
